US04774331
To 2 ml of a solution of 2M of boron trichloride in methylene chloride were added a solution of 0.93 g of aniline in 10 ml of methylene chloride, 1.2 ml of trichloroacetonitrile and 1.2 ml of stannic chloride under ice-cooling. The mixture was refluxed on an oil bath for 24 hr. and poured into a mixture of 16 g of potassium carbonate and 32 ml of methanol under ice-cooling. The mixture was refluxed on an oil bath for 1 hr., filtered to remove the insoluble material and evaporated under reduced pressure. The residue was mixed with water and extracted with ether. The ether layer was washed with dilute HCl, dried over anhydrous magnesium sulfate and evaporated. The residue was purified on a Lobar column. The eluate with 5% ethyl acetate-methylene chloride was evaporated and the residue was recrystallized from ether-petroleum ether to give 0.538 g of anthranilonitrile as crystals melting at 48°-50° C.

reactant | boron trichloride | 2M | B(Cl)(Cl)Cl | BCl3
reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 32 ml | CO | CH4O
reactant | trichloroacetonitrile | 1.2 ml | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | anthranilonitrile | 0.538 g, Yield: 46% | C(C=1C(N)=CC=CC1)#N | C7H6N2
